US08563565B2
(2) Synthesis of (S)-7-(2-methoxy-3,5-dimethylpyridin-4-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
Ethyl 5-[4-(2-methoxy-3,5-dimethylpyridin-4-yl)-2-nitrophenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate (1.1 g) was suspended in ethanol (13 mL) Iron powder (280 mg) and a saturated aqueous ammonium chloride solution (3 mL) were added to the solution, and the mixture was stirred at 100° C. for 3.5 hours. The reaction mixture was cooled to room temperature and then filtered through Celite™. The filtrate was partitioned by adding ethyl acetate (100 mL) and water (50 mL). The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in acetic acid (2 mL), followed by stirring at 50° C. After four hours, the reaction mixture was cooled to mom temperature, and water (20 mL) was added. The precipitated solid was collected by filtration. 1-propanol (10 ml) and water (1.5 mL) were added to the resulting solid which was dissolved with heating under reflux. The solution was cooled with ice water. After one hour, the precipitated solid was collected by filtration and washed with MTBE (5 mL) to give the title compound (780 mg).

reactant | Ethyl 5-[4-(2-methoxy-3,5-dimethylpyridin-4-yl)-2-nitrophenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 1.1 g | COC1=NC=C(C(=C1C)C1=CC(=C(C=C1)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC)[N+](=O)[O-])C | C24H26N4O6
reactant | ammonium chloride | 3 mL | [Cl-].[NH4+]
solvent | ethanol | 13 mL, 280 mg | C(C)O | C2H6O
product | (S)-7-(2-methoxy-3,5-dimethylpyridin-4-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 780 mg | COC1=NC=C(C(=C1C)C=1C=CC=2C3=C(C(NC2C1)=O)C=NN3[C@@H]3COCC3)C | C22H22N4O3
